US08183246B2
6-{[5-(4-Methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Dissolve 7.1 g (27.2 mol) 4-chloro-5-(4-methoxyphenyl)furo[2,3-d]pyrimidine in 250 ml acetonitrile and add 5.9 g (32.7 mmol) 6-aminohexanoic acid methyl ester hydrochloride and 9.4 g (68.1 mmol) potassium carbonate. Heat the mixture under reflux for 18 hours and then filter after cooling to room temperature. Mix the residue three times in 50 ml water each time, filter and dry under vacuum. 4.1 g (41% of theor.) of the title compound is obtained.

reactant | 4-chloro-5-(4-methoxyphenyl)furo[2,3-d]pyrimidine | 27.2 mol, 7.1 g | ClC=1C2=C(N=CN1)OC=C2C2=CC=C(C=C2)OC | C13H9ClN2O2
reactant | 6-aminohexanoic acid methyl ester hydrochloride | 32.7 mmol, 5.9 g | Cl.COC(CCCCCN)=O
reactant | potassium carbonate | 68.1 mmol, 9.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 6-{[5-(4-Methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC=C2C2=CC=C(C=C2)OC)=O | C20H23N3O4
